US04118490
7-(α-t-Butoxycarbonyl-2-thienylacetamido)-3-(1-sulfomethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid disodium salt (1.0 g.) is stirred in a mixture of 10 ml. of trifluoroacetic acid and 10 ml. of m-dimethoxybenzene at 25° for 1 hour. The mixture is evaporated to dryness and the residue is triturated with ether. The precipitated product is collected by filtration and dissolved in methanol. A sodium methoxide solution is added until pH 7.0, the mixture is diluted with ether and the product is dissolved in water and lyophilized to give 7-(α-carboxy-2-thienylacetamido)-3-(1-sulfomethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid trisodium salt.

reactant | 7-(α-t-Butoxycarbonyl-2-thienylacetamido)-3-(1-sulfomethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid disodium salt | 1.0 g | [Na+].[Na+].C(C)(C)(C)OC(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CS(=O)(=O)O)SC2=NN=NN2)C(=O)[O-])C1=O)C=1SC=CC1.C(C)(C)(C)OC(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CS(=O)(=O)O)SC2=NN=NN2)C(=O)[O-])C1=O)C=1SC=CC1
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | m-dimethoxybenzene | COC1=CC(=CC=C1)OC | C8H10O2
product | 7-(α-carboxy-2-thienylacetamido)-3-(1-sulfomethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid trisodium salt | [Na+].[Na+].[Na+].C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CS(=O)(=O)O)SC2=NN=NN2)C(=O)[O-])C1=O)C=1SC=CC1.C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CS(=O)(=O)O)SC2=NN=NN2)C(=O)[O-])C1=O)C=1SC=CC1.C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CS(=O)(=O)O)SC2=NN=NN2)C(=O)[O-])C1=O)C=1SC=CC1 | InChI=1S/3C17H16N6O9S4.3Na/c3*24-12(9(15(26)27)7-2-1-3-33-7)18-10-13(25)23-11(16(28)29)6(4-34-14(10)23)8(5-36(30,31)32)35-17-19-21-22-20-17;;;/h3*1-3,8-10,14H,4-5H2,(H,18,24)(H,26,27)(H,28,29)(H,30,31,32)(H,19,20,21,22);;;/q;;;3*+1/p-3/t3*8?,9?,10?,14-;;;/m111.../s1
